Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
irregular bleeding
 
Major Surgical or Invasive Procedure:
total abdominal hysterectomy, re-exploration and vaginal cuff 
re-sewing, cystoscopy

 
History of Present Illness:
Ms. ___ initially presented with complaints of irregular 
bleeding. She moved here from ___ ___ years ago, and never had 
any problems prior to last ___. Menses were q month, light 
flow, lasting ___ days, with no spotting.  In ___ she 
developed persistent bleeding, with a period which began ___ 
and continued until ___. The bleeding was light but daily, no 
clots. However, she developed severe cramping at night, and 
could feel a mass over her lower abdomen, esp when arising from 
sleep. Denies bowel or bladder complaints. Not sexually active 
for several years. Lost some weight last year , a few pounds, 
but no recent weight loss. Appetite is poor.

She was offered various options for medical and surgical 
management and has decided to go forward with surgery due to 
continued irregular bleeding and discomfort. She requests 
preservation of the ovaries and removal of the cervix;
she has reviewed the information given her and looked online for 
information.  All consent forms were signed. 
 
Past Medical History:
PAST MEDICAL HISTORY: 
  1. Asthma. 
 
PAST SURGICAL HISTORY 
  1. D&C. 
  2. SVD: Hopsitalized for hyperemesis gravidarum during most of 
pregnancy. 

Menstrual History
Menses: 14 X  Q month X  ___ days 
Clots: Yes. 
Metrorraghia: Yes. 
Dysmenorrhea: Yes. 
Any change: Yes. 
 
Menopausal symptoms:
Hot flushes: Yes. 
Night sweats: Yes. 
Insomnia: Yes. 

Preventative Maintenance
Last pap: ___. Result: NORMAL. 
Last mammogram: ___. Result: NORMAL. 
 
Infection/STI history: None. 

 
Social History:
___
Family History:
Mother: ___ cancer, died at ___, had heavy bleeding and underwent 
hysterectomy at ___, ? cervical vs uterine cancer. Deceased. 
Children: A&W.  

 
Physical Exam:
On postoperative check:
VS - 98.5, 99.0  103/59  86  16  99% RA
I/O - sips + 7000 IVF (incl 3u prbc in OR) / ___ UOP + EBL 1200
A+O NARD
RRR
CTAB
Abd soft, appr ttp, +BS, no R/G, ND, dsg c/d/i
Pad w/min VB. Foley with 100mL cyu in bag
Ext NT NE pboots on
 
Pertinent Results:
___ 12:27PM BLOOD Hct-20.6*#
___ 06:53PM BLOOD WBC-16.5*# RBC-3.66* Hgb-11.4*# 
Hct-31.5*# MCV-86 MCH-31.0 MCHC-36.1* RDW-14.0 Plt ___
___ 06:19AM BLOOD WBC-12.3* RBC-3.11* Hgb-9.7* Hct-27.0* 
MCV-87 MCH-31.0 MCHC-35.7* RDW-13.9 Plt ___
___ 01:45PM BLOOD WBC-9.7 RBC-2.91* Hgb-9.1* Hct-25.1* 
MCV-86 MCH-31.1 MCHC-36.1* RDW-13.8 Plt ___
___ 08:00AM BLOOD WBC-10.5 RBC-2.66* Hgb-8.3* Hct-23.6* 
MCV-89 MCH-31.0 MCHC-35.0 RDW-13.9 Plt ___
___ 11:00AM BLOOD WBC-9.2 RBC-2.74* Hgb-8.5* Hct-24.9* 
MCV-91 MCH-31.1 MCHC-34.3 RDW-13.8 Plt ___
___ 06:19AM BLOOD ___ PTT-24.4 ___
___ 01:45PM BLOOD ___ PTT-23.3 ___
___ 06:19AM BLOOD ___
___ 01:45PM BLOOD ___

 
Brief Hospital Course:
Ms. ___ underwent a total abdominal hysterectomy complicated 
by a postoperative hypotension requiring pressors and suspected 
subfsacial hematoma in the recovery room requiring 
re-exploration in the operating room, 3 units of packed red 
blood cells transfusion for an intraoperative Hct of 20.6, 
re-sewing of the vaginal cuff, and cystoscopy.  She was found to 
have an arterial bleed form the junction of the vaginal cuff and 
right cardinal ligament. Please see the operative reports for 
full details.  She remained hemodynamically stable with a stable 
hematocrit and normal vital signs throughout the remainder of 
her hospital course.  

Her postoperative course was complicated by complaints of chest 
pain in the recovery room following her second procedure, and 
EKG was negative and cardiac enzymes were negative on 2 serial 
checks.  This pain spontaneously resolved, and it was not felt 
to be due to demand ischemia or other acute cardiac etiology.  
She remained without complaints of chest pain throughout the 
rest of her hospitalization.

On postoperative day 1 she developed contact skin blisters from 
the surgical tapes used postoperatively, and these were treated 
with vaseline, bacitracin and gauze without evidence of 
infection or cellulitis.  On postoperative day 1 she was slow to 
advance her diet, and she was found to be hypokalemic to a K of 
3.1.  This was repleted with supplementary oral potassium, she 
promptly advanced her diet to regular without difficulty and 
never developed symptoms of hypokalemia.

She met all postoperative milestones by postoperative day 4, 
including voiding, ambulating, tolerating a regular diet, and 
having her pain well-controlled with oral medications.  She was 
discharged in good condition and follow was scheduled with Dr. 
___ as an outpatient.  
 
Medications on Admission:
ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 2 
puffs(s) orally every 6 hours as needed
FLUTICASONE [FLOVENT HFA] - 110 mcg/Actuation Aerosol - 2 
puffs(s) orally twice a day as needed
INHALATIONAL SPACING DEVICE [AEROCHAMBER] -   Inhaler - use with 
flovent inhaler twice a day
TOPIRAMATE [TOPAMAX] - 25 mg Tablet - 4 Tablet(s) by mouth at 
bedtime - No Substitution
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q3H (every 3 
hours) as needed for pain.
Disp:*45 Tablet(s)* Refills:*0*
3. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
4. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for pt 
request.
Disp:*1 inhaler* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call your doctor for:
* fever > 100.4
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Do not combine narcotic and sedative medications or alcohol
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks. 
* You may eat a regular diet.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision.  No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.
 
Followup Instructions:
___